US08008350B2
i) 1-Bromo-2-fluoro-4-(phenylsulfonyl)benzene
The subtitle compound was prepared by the method of example 2 step (i) using 4-bromo-3-fluorobenzenesulfonyl chloride and benzene.

reactant | 4-bromo-3-fluorobenzenesulfonyl chloride | BrC1=C(C=C(C=C1)S(=O)(=O)Cl)F | C6H3BrClFO2S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-Bromo-2-fluoro-4-(phenylsulfonyl)benzene | BrC1=C(C=C(C=C1)S(=O)(=O)C1=CC=CC=C1)F | C12H8BrFO2S
